US03932629
d. 1-ethyl-5-chloro-3-hydroxy-1,2,4-triazole
71.5 g of chlorine is passed into a solution of 75.5 g of 1-ethyl-3-hydroxy-1,2,4-triazole and 185 ml of triethylamine in 800 ml of absolute ethanol. The exothermic reaction is kept at 20° to 30°C while cooling. Triethylamine hydrochloride is precipitated. The batch is further stirred for 2 hours after the chlorine has been passed in. Triethylamine hydrochloride is filtered off and the filtrate concentrated. The residue is dissolved in 500 ml of ether and 500 ml of water. The phases are separated and the aqueous phase is extracted 3 times with 300 ml of ether each time. The ethereal extracts are dried over sodium sulphate. The drying agent is filtered off and the filtrate concentrated. The residue is recrystallised from a mixture of 400 ml of xylene and 250 ml of ligroin and dried in vacuo. Yield: 28.7 g (29 % of theory); m.p. 108°-110°C.

reactant | chlorine | 71.5 g | ClCl | Cl2
reactant | 1-ethyl-3-hydroxy-1,2,4-triazole | 75.5 g | C(C)N1N=C(N=C1)O | C4H7N3O
reactant | triethylamine | 185 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 1-ethyl-5-chloro-3-hydroxy-1,2,4-triazole | C(C)N1N=C(N=C1Cl)O | C4H6ClN3O
